US08445490B2
tert-butyl 4-(4-(4-(2-(2-(tert-butoxycarbonylamino)acetamido)acetamido)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate and 4 N HCl in Dioxane (2 mL, 8.00 mmol) were stirred for 1 h then concentrated under vacuum to give 4-(4-(4-(2-(2-aminoacetamido)acetamido)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid (112 mg) which was carried to the next step without purification.

reactant | tert-butyl 4-(4-(4-(2-(2-(tert-butoxycarbonylamino)acetamido)acetamido)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoate | C(C)(C)(C)OC(=O)NCC(=O)NCC(=O)NC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C32H39F3N8O7
reactant | HCl | 4 N | Cl | ClH
reactant | Dioxane | 8.00 mmol, 2 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(4-(2-(2-aminoacetamido)acetamido)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzoic acid | 112 mg | NCC(=O)NCC(=O)NC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)O)C=C2)C=C1 | C23H23F3N8O5
